US04780464
4-Chloro-1-propyl[1,2,4]triazolo[4,3-a]quinoxaline
A reaction mixture of 5 g of 2-chloro-3-hydrazinoquinoxaline in 15 ml of triethyl orthobutyrate was heated at 100° C. for three hours. Upon cooling, the precipitated solid was filtered, washed with cyclohexane, and dried giving 4.0 g of 4-chloro-1-propyl[1,2,4]triazolo[4,3-aquinoxaline having a mp of 172°-175° C.

reactant | 2-chloro-3-hydrazinoquinoxaline | 5 g | ClC1=NC2=CC=CC=C2N=C1NN | C8H7ClN4
solvent | triethyl orthobutyrate | 15 ml | C(CCC)(OCC)(OCC)OCC | C10H22O3
product | 4-Chloro-1-propyl[1,2,4]triazolo[4,3-a]quinoxaline | ClC=1C=2N(C3=CC=CC=C3N1)C(=NN2)CCC | C12H11ClN4
